US04173650
2-(p-Fluorobenzoyl)-3-methoxy-2-pentenonitrile
A solution containing 30 g. of (p-fluorobenzoyl)acetonitrile, 36.4 g. of trimethylorthopropionate and 57 g. of acetic anhydride is heated in an oil bath at 130° for 3 hours. The ethanol and excess acetic anhydride is distilled off and the residue is diluted with chloroform. The chloroform solution is passed quickly through Magnesol® and concentrated, then cooled to produce the title product.

reactant | (p-fluorobenzoyl)acetonitrile | FC1=CC=C(C(=O)CC#N)C=C1 | C9H6FNO
reactant | trimethylorthopropionate | COC(CC)(OC)OC | C6H14O3
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
product | 2-(p-Fluorobenzoyl)-3-methoxy-2-pentenonitrile | FC1=CC=C(C(=O)C(C#N)=C(CC)OC)C=C1 | C13H12FNO2
